US07300944B2
3-Cyclobutyl-4-methyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one-hydrochloride salt
To an aliquot of 3-cyclobutyl-4-methyl-2,7-dihydro-pyrazolo[3,4-b]pyridin-6-one hydrochloride salt (0.20 mg, 0.83 mmol) in MeOH (50 mL) was added 10% Pd/C (100 mg). The reaction mixture was placed in a hydrogenation bottle, pressured with 45 psi H2, and then heated to 60° C. (internal temp). After 12 hr, the reaction was cooled to room temperature, 100 μL of conc. HCl was added, followed by an additional 100 mg of Pd/C. The bottle was re-pressurized with 45 psi H2, and then reheated to 60° C. (internal temp). The reaction mixture was cooled to room temperature after 12 hr, filtered through a plug of diatomaceous earth, and concentrated under pressure. Partial purification of this material was accomplished by MPLC using a 15 g ISCO column (ISCO, Inc., Lincoln, Nebr.), eluting with 2% MeOH/CH2Cl2 with 0.2% NH4OH. The product-containing fractions were collected and concentrated. This material was re-chromatographed using a 15 g ISCO column, eluting with 4% MeOH/CH2Cl2 with 0.2% NH4OH. The product-containing fractions were collected and concentrated to afford the title compound (19.0 mg, 11% yield). The monohydrochloride salt was formed using 1M HCl in Et2O. 400 MHz 1H NMR (CD3OD) free base d 3.60 (dddd, J=9.5,9.5, 9.5, 0.8 Hz, 1H), 3.10 (ddddd, J=10.8, 6.6, 6.6, 6.6, 4.2 Hz, 1H), 2.72 (dd, J=15.8, 6.6 Hz, 1H), 2.36-2.23 (M, 5H), 2.07 (dddd, J=19.9, 9.5, 9.5, 9.5 Hz, 1H), 1.94-1.89 (m, 1H), 1.15 (d, J=7.0 Hz, 3H). LRMS m/z (APCI+) 206 (M+1).

reactant | 3-cyclobutyl-4-methyl-2,7-dihydro-pyrazolo[3,4-b]pyridin-6-one hydrochloride salt | 0.83 mmol, 0.20 mg | Cl.C1(CCC1)C=1NN=C2NC(C=C(C21)C)=O
reactant | HCl | 100 μL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-Cyclobutyl-4-methyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one-hydrochloride salt | 19.0 mg, 11% yield | Cl.C1(CCC1)C=1NN=C2NC(CC(C21)C)=O | InChI=1S/C11H15N3O.ClH/c1-6-5-8(15)12-11-9(6)10(13-14-11)7-3-2-4-7;/h6-7H,2-5H2,1H3,(H2,12,13,14,15);1H
